resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.01484
R2 0 n2 1.008747
R3 0 n4 1.006606
R4 n1 n3 1.013782
R5 n1 n5 1.017445
R6 n2 n3 1.019349
R7 n2 n6 0.985231
R8 n3 n7 0.985972
R9 n4 n5 1.014103
R10 n4 n6 0.999441
R11 n5 n7 0.996822
R12 n6 n7 0.993808
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
